US04144341
A suspension of 500 mg. of 1,3-dihydro-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]pyridin-2-one in 15 ml. of acetic anhydride was heated on a steam bath overnight. The solution was evaporated in vacuo leaving a crystalline residue which was recrystallized from 20 ml. of benzene to give 1-acetyl-3-(3,4-methylenedioxyphenyl)-1,3-dihydroimidazo[4,5-b]pyridin-2-one, m.p. 211°-212° C.

reactant | 1,3-dihydro-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]pyridin-2-one | C1OC=2C=C(C=CC2O1)N1C(NC=2C1=NC=CC2)=O | C13H9N3O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-3-(3,4-methylenedioxyphenyl)-1,3-dihydroimidazo[4,5-b]pyridin-2-one | C(C)(=O)N1C(N(C2=NC=CC=C21)C2=CC1=C(C=C2)OCO1)=O | C15H11N3O4
